US07148226B2
2-(4-Bromo-2-fluoro-phenyl)-propionitrile
The title compound was prepared analogously to 1-(4-Bromo-2-fluoro-phenyl)-cyclobutanecarbonitrile in step 2 of example A(236) substituting iodomethane in place of 1,3-dibromopropane. MS (APCI): 253 (M+H+), 255 (M+2+H+).

reactant | 1-(4-Bromo-2-fluoro-phenyl)-cyclobutanecarbonitrile | BrC1=CC(=C(C=C1)C1(CCC1)C#N)F | C11H9BrFN
reactant | iodomethane | IC | CH3I
product | 2-(4-Bromo-2-fluoro-phenyl)-propionitrile | BrC1=CC(=C(C=C1)C(C#N)C)F | C9H7BrFN
